US08293909B2
To a cooled solution (−78° C., dry ice, acetone) containing 2-(4-fluorophenyl)-3-iodo-5-methoxybenzo[b]thiophene (1.0 g, 2.6 mmol,) and THF (26 mL) was added n-butyllithium (2.0 mL, 1.0 M THF) over 5 min. The solution was maintained at −78° C. for 1 h. Methylchloroformate (0.80 mL, 10.4 mmol) was then added quickly in a steady stream via syringe. The solution was removed from cooling and allowed to stand at ambient temperature for 15 h. The solution was concentrated and purified on silica gel (0-10% ethyl acetate/hexanes, 40 min. gradient) to afford methyl 2-(4-fluorophenyl)-5-methoxybenzo[b]thiophene-3-carboxylate as a yellow residue. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 7.88 (d, J=2.44 Hz, 1H), 7.66 (d, J=8.85 Hz, 1H), 7.47 (dd, J=8.85, 5.19 Hz, 2H), 7.12 (t, J=8.70 Hz, 2H), 7.05 (dd, J=8.70, 2.59 Hz, 1H), 3.91 (s, 3H), 3.74 (s, 3H). LCMS: retention time: 3.355 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 micron, C18, 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where solvent A was 5% CH3CN/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% CH3CN/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 317 (MH−).

reactant | dry ice | C(=O)=O | CO2
reactant | 2-(4-fluorophenyl)-3-iodo-5-methoxybenzo[b]thiophene | 2.6 mmol, 1.0 g | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC(=C2)OC)I | C15H10FIOS
reactant | n-butyllithium | 1.0 M, 2.0 mL | C(CCC)[Li]
reactant | Methylchloroformate | 10.4 mmol, 0.80 mL | COC(=O)Cl | C2H3ClO2
solvent | THF | 26 mL | C1CCOC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | methyl 2-(4-fluorophenyl)-5-methoxybenzo[b]thiophene-3-carboxylate | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC(=C2)OC)C(=O)OC | C17H13FO3S
